US05792764
2-Methyl-3-methylsulfanyl-2H-pyrido[4.3-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 2-methyl-3-thioxo-2,3-dihydro-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide (1.0 g) in acetonitrile (20 mL) was supplemented with potassium carbonate (1.0 g), then with methyl iodide (1 mL). After 1 h at room temperature, the solvent was removed by distillation under reduced pressure. The residue was dispersed in water (50 mL) and the suspension was adjusted to pH 5 with formic acid. The insoluble material was collected by filtration, washed with water and dried (yield: 0.8 g); m.p. 135°-138° C. (Compound V).

reactant | 2-methyl-3-thioxo-2,3-dihydro-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | 1.0 g | CN1S(C2=C(NC1=S)C=CN=C2)(=O)=O | C7H7N3O2S2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1 mL | CI | CH3I
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-Methyl-3-methylsulfanyl-2H-pyrido[4.3-e]-1,2,4-thiadiazine 1,1-dioxide | CN1S(C2=C(N=C1SC)C=CN=C2)(=O)=O | C8H9N3O2S2
